US05273680
A solution of n-butyllithium (0.1 mol) in 65 ml of hexane is added to a mixture of 4"-propyl-2,3-difluoro-p-terphenyl (0.1 mol), potassium t-butylate (0.1 mol) and 200 ml of THF at -100° C. After stirring 5 minutes at -100° C. a mixture of brompentane (0.1 mol) and N,N-dimethylpropylene urea (0.1 mol, DMPU) is added. After warming-up to -30° C. and usual work-up 4"-propyl-4-pentyl-2,3-difluoro-p-terphenyl is obtained.

reactant | n-butyllithium | 0.1 mol | C(CCC)[Li]
reactant | 4"-propyl-2,3-difluoro-p-terphenyl | 0.1 mol | C(CC)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=CC=C1)F)F | C21H18F2
reactant | brompentane | 0.1 mol | BrCCCCC | C5H11Br
reactant | N,N-dimethylpropylene urea | 0.1 mol | CC1CN1C(=O)N(C)C | C6H12N2O
solvent | hexane | 65 ml | CCCCCC | C6H14
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4"-propyl-4-pentyl-2,3-difluoro-p-terphenyl | C(CC)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=C(C=C1)CCCCC)F)F | C26H28F2
